US06156757
1,4-dioxa-8-azaspiro[4,5]decane (0.12 mol) was added dropwise to a mixture of O-(4-fluorophenyl)hydroxylamine hydrochloride (1: 1) (0.1 mol) in a mixture of HCl and 1,1-oxybisethane (150 ml). The reaction mixture was stirred and refluxed for 4 hours and then cooled. The precipitate was filtered off and dried, then recrystallized from water, yielding 10 g (43.9%) 1,2,3,4-tetrahydro-8-fluorobenzofuro[3,2-c]pyridine hydrochloride (interm. 2; mp. >300° C.).

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 0.12 mol | O1CCOC12CCNCC2 | C7H13NO2
reactant | O-(4-fluorophenyl)hydroxylamine hydrochloride | 0.1 mol | Cl.FC1=CC=C(C=C1)ON
solvent | HCl | Cl | ClH
product | 1,2,3,4-tetrahydro-8-fluorobenzofuro[3,2-c]pyridine hydrochloride | 10 g, 43.9% | Cl.FC=1C=CC2=C(C1)C=1CNCCC1O2 | InChI=1S/C11H10FNO.ClH/c12-7-1-2-10-8(5-7)9-6-13-4-3-11(9)14-10;/h1-2,5,13H,3-4,6H2;1H
